US06124354
1-Phenyl-3-oxocyclobutanecarboxylic acid was prepared by refluxing 1-phenyl-3,3-dimethoxycyclobutanecarboxylic acid (8.5 mmol) with 90% HOAc, evaporating the reaction mixture, taking up the residue in 0.1 M HCl and Et2O, extracting the aqueous layer with Et2O and drying (Na2SO4) and evaporating the organic layer. The crude oxocarboxylic acid was dissolved in DMF (30 mL) and then added to NaH (60% dispersion in mineral oil, 20 mmol, washed twice with hexane) at ambient temperature. After 30 min N,N-diisopropyl-2-chloroethylamine (1.8 mmol) was added. After 2 h, the reaction mixture was partitioned between H2O and toluene. The crude product was chromatographed on silica gel using toluene-Et3N 98:2 as eluent. The afforded oil was dissolved in Et2O and HCl (g)/Et2O was added whereby the product crystallized to yield 0.25 g (10%); mp 133-135° C.; 1H NMR (CDCl3) δ 1.39 (d,12H), 3.10 (m, 2H), 3.54 (m, 4H), 4.05 (m, 2H), 4.72 (t, 2H), 7.38 (m, 5H), 11.8 (br, 1H). Anal. (C19H27NO3.HCl) C, H, N.

reactant | 1-phenyl-3,3-dimethoxycyclobutanecarboxylic acid | 8.5 mmol | C1(=CC=CC=C1)C1(CC(C1)(OC)OC)C(=O)O | C13H16O4
reactant | N,N-diisopropyl-2-chloroethylamine | 1.8 mmol | C(C)(C)N(C(C)C)CCCl | C8H18ClN
solvent | HOAc | CC(=O)O | C2H4O2
product | 1-Phenyl-3-oxocyclobutanecarboxylic acid | C1(=CC=CC=C1)C1(CC(C1)=O)C(=O)O | C11H10O3
